US04002757
N-Methyl-N-(1-cyclohexyl-3-pyrrolidinyl)-2-chloro-4-quinolinecarboxamide Hydrochloride.
To 12.7 g. (0.07 mole) of 1-cyclohexyl-3-methylaminopyrrolidine in dry benzene was added dropwise with stirring 15 g. (0.07 mole) of 2-chloroquinoline-4-carbonyl chloride in dry benzene. After 0.5 hr. the solution was extracted with dilute hydrochloric acid and the acidic solution made basic with sodium hydroxide solution and extracted with benzene. The benzene extracts were dried over sodium sulfate and concentrated. The residue was chromatographed on an aluminum silicate column eluting with a mixture of acetone benzene progressing from pure benzene to 50% acetone-benzene. The fractions containing the desired product were concentrated and the residue crystallized as the hydrochloride salt from isopropyl ether. The salt was recrystallized from isobutyl methyl ketone. Yield 10 g. (36%); m.p. 230°-233° C.

reactant | 1-cyclohexyl-3-methylaminopyrrolidine | 0.07 mole | C1(CCCCC1)N1CC(CC1)NC | C11H22N2
reactant | 2-chloroquinoline-4-carbonyl chloride | 0.07 mole | ClC1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C10H5Cl2NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Methyl-N-(1-cyclohexyl-3-pyrrolidinyl)-2-chloro-4-quinolinecarboxamide Hydrochloride | Cl.CN(C(=O)C1=CC(=NC2=CC=CC=C12)Cl)C1CN(CC1)C1CCCCC1 | InChI=1S/C21H26ClN3O.ClH/c1-24(16-11-12-25(14-16)15-7-3-2-4-8-15)21(26)18-13-20(22)23-19-10-6-5-9-17(18)19;/h5-6,9-10,13,15-16H,2-4,7-8,11-12,14H2,1H3;1H
